US07648997B2
To a solution of 7-bromo-4-chloro-3-nitro[1,5]naphthyridine (22.53 g, 78.10 g) in dichloromethane (260 mL) at room temperature was added triethylamine (14.2 mL, 102 mmol). The solution was cooled to 0° C., and 3-amino-1-propanol (6.57 mL, 85.9 mmol) was added. The solution was stirred for 20 minutes at room temperature and then was concentrated under reduced pressure to yield a yellow solid. Water (250 mL) was added to the solid and the mixture was sonicated for 10 minutes. The solid was isolated by filtration, washed with water, and dried at 70° C. under vacuum to afford 22.60 g of 3-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]propan-1-ol as a yellow powder.

reactant | 7-bromo-4-chloro-3-nitro[1,5]naphthyridine | 22.53 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C8H3BrClN3O2
reactant | triethylamine | 102 mmol, 14.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-1-propanol | 85.9 mmol, 6.57 mL | NCCCO | C3H9NO
reactant | Water | 250 mL | O | H2O
solvent | dichloromethane | 260 mL | ClCCl | CH2Cl2
product | 3-[(7-bromo-3-nitro[1,5]naphthyridin-4-yl)amino]propan-1-ol | 22.60 g | BrC1=CN=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCO | C11H11BrN4O3
